US09314468B2
Preparation of N-methyl-N-((1-phenyl-1H-1,2,3-triazol-4-yl)methyl)-5,6,7,8-tetrahydroquinolin-8-amine (Y).
To a solution of 1-phenyl-1H-1,2,3-triazole-4-carbaldehyde, 9, (0.23 g, 1.35 mmol) in 1,2-dichloroethane (2 mL) was added N-methyl-5,6,7,8-tetrahydroquinolin-8-amine, 5, (0.20 g, 1.23 mmol), sodium triacetoxyborohydride (0.10 g, 1.60 mmol), and 3 drops of acetic acid. The reaction mixture was stirred for 16 h at room temperature. The reaction mixture was then poured into aqueous saturated NaCl (10 mL) and was extracted with ethyl acetate (10 mL). The organic phase was dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified by silica gel chromatography (0-5% methanol/dichloromethane) yielding 35 mg (9%) of Y: 1H NMR (400 MHz, CDCl3) δ 8.74 (s, 1H), 8.47 (s, 1H), 7.78, (d, J=8.4 Hz, 2H), 7.50-7.39, (m, 4H), 7.20, (m, 1H), 4.72, (d, J=13.6 Hz, 1H), 4.63-4.58 (m, 2H), 2.90-2.60 (m, 6H), 2.22-2.17 (m, 1H), 2.10-1.95, (m, 1H), 1.90-1.78, (m, 1H).

reactant | 1-phenyl-1H-1,2,3-triazole-4-carbaldehyde | C1(=CC=CC=C1)N1N=NC(=C1)C=O | C9H7N3O
reactant | N-methyl-5,6,7,8-tetrahydroquinolin-8-amine | CNC1CCCC=2C=CC=NC12 | C10H14N2
reactant | sodium triacetoxyborohydride | 1.23 mmol, 0.20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | N-methyl-N-((1-phenyl-1H-1,2,3-triazol-4-yl)methyl)-5,6,7,8-tetrahydroquinolin-8-amine | CN(C1CCCC=2C=CC=NC12)CC=1N=NN(C1)C1=CC=CC=C1 | C19H21N5
